US08003656B2
D. 5-(2,4-Difluorophenoxy)-6-(4-fluorophenyl)[1,3]thiazolo[5,4-d]pyrimidin-7(6H)-one (Compound 4)
5-Chloro-6-(4-fluorophenyl)[1,3]thiazolo[5,4-d]pyrimidin-7(6H)-one (0.2 mmol) and 2.4-difluorophenol (0.4 mmol) are added to a vial, and the sealed mixture is heated with stirring at 140° C. for 48 h. Silica gel column chromatography (MeOH:CH2Cl2=0.5:99.5) gives the title compound as a slightly yellow solid. 1H NMR (400 MHz, CDCl3) 8.70 (1H, s), 7.36 (2H, m), 7.26 (2H, m), 7.14 (1H, m), 6.94 (2H, m). MS (M+1): 376.03; RT=1.33 min.

reactant | 5-Chloro-6-(4-fluorophenyl)[1,3]thiazolo[5,4-d]pyrimidin-7(6H)-one | 0.2 mmol | ClC=1N(C(C2=C(N1)SC=N2)=O)C2=CC=C(C=C2)F | C11H5ClFN3OS
reactant | 2.4-difluorophenol | 0.4 mmol | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(2,4-Difluorophenoxy)-6-(4-fluorophenyl)[1,3]thiazolo[5,4-d]pyrimidin-7(6H)-one | FC1=C(OC=2N(C(C3=C(N2)SC=N3)=O)C3=CC=C(C=C3)F)C=CC(=C1)F | C17H8F3N3O2S
